US04912113
3.5 g 3-cyclopropylmethyl-9,9-dimethyl-3,7-diazabicyclo[3,3,1]nonane were dissolved in 25 ml dimethylformamide, and 0.8 g lithium amide were added to the solution. The reaction mixture was then maintained at a temperature of 60° C. for one hour and subsequently allowed to cool. After cooling, a solution of 8 g bis-(4-fluorophenyl)methyl chloride in 10 ml dimethylformamide was added in drops, and the reaction mixture was stirred for a further 4 hours at 40° C. Then aqueous citric acid solution was added to the reaction mixture, and the mixture was worked up as described in Example 1. 5.8 g 7-[bis-(4-fluorophenyl)methyl]-3-cyclopropylmethyl-9,9-dimethyl-3,7diazabicyclo[3,3,1]nonane were obtained as an oleaginous base.

reactant | 3-cyclopropylmethyl-9,9-dimethyl-3,7-diazabicyclo[3,3,1]nonane | 3.5 g | C1(CC1)CN1CC2CNCC(C1)C2(C)C | C13H24N2
reactant | lithium amide | 0.8 g | [NH2-].[Li+]
reactant | bis-(4-fluorophenyl)methyl chloride | 8 g | FC1=CC=C(C=C1)C(C1=CC=C(C=C1)F)Cl | C13H9ClF2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 7-[bis-(4-fluorophenyl)methyl]-3-cyclopropylmethyl-9,9-dimethyl-3,7diazabicyclo[3,3,1]nonane | 5.8 g | FC1=CC=C(C=C1)C(N1CC2CN(CC(C1)C2(C)C)CC2CC2)C2=CC=C(C=C2)F | C26H32F2N2
